US05859014
substituting 3-{3-[4-(2-(2,2,2-trifluoroethoxy)phenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione and 4-chlorobenzyl chloride gave 1-(4-chlorobenzyl)-3-{3-[4-(2-(2,2,2-trifluoroethoxy)phenyl)piperazin-1-yl]-propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 170°-172° C.; Anal.: Calcd. for C27H30ClF3N4O3.HCl: C, 55.20; H, 5.31; N, 9.53%; Found: C, 55.01; H, 5.24; N, 9.56%;

reactant | 3-{3-[4-(2-(2,2,2-trifluoroethoxy)phenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione | FC(COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(NC=C(C1=O)C)=O)(F)F | C20H25F3N4O3
reactant | 4-chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
product | 1-(4-chlorobenzyl)-3-{3-[4-(2-(2,2,2-trifluoroethoxy)phenyl)piperazin-1-yl]-propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.ClC1=CC=C(CN2C(N(C(C(=C2)C)=O)CCCN2CCN(CC2)C2=C(C=CC=C2)OCC(F)(F)F)=O)C=C1 | InChI=1S/C27H30ClF3N4O3.ClH/c1-20-17-34(18-21-7-9-22(28)10-8-21)26(37)35(25(20)36)12-4-11-32-13-15-33(16-14-32)23-5-2-3-6-24(23)38-19-27(29,30)31;/h2-3,5-10,17H,4,11-16,18-19H2,1H3;1H
